US06403610B1
A mixture of 0.89 g of methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(3,5-difluorophenyl)prop-2-ynyl]piperidine-3-carboxylate in 9 cm3 of dioxane to which had been added 1.41 cm3 of 5N aqueous sodium hydroxide solution was stirred for 18 hours at a temperature in the region of 60° C. After cooling to approximately 20° C., the reaction mixture was evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue obtained was purified by chromatography under a nitrogen pressure of 50 kPa on a column of silica gel (particle size 20-45 μm; diameter 3.3 cm; mass 56 g), elution first was carried out with a dichloromethane/methanol (95/5 by volume) mixture. A fraction of 100 cm3 was first collected and then 16-cm3 fractions. Fractions 1 to 36 were separated. Elution was subsequently carried out with a dichloromethane/methanol (75/25 by volume) mixture. A first fraction of 200 cm3 a second of 150 cm3, and then a third of 100 cm3 were obtained. The latter two were combined and concentrated as above. The residue obtained was taken up in dichloromethane and filtered. The filtrate was evaporated as above and then the new residue obtained was triturated in 25 cm3 of a diisopropyl ether/pentane (50/50 by volume) mixture. The product which crystallized was filtered off and washed with 2 times 10 cm3 of the same mixture and then 3 times 10 cm3 of pentane. 0.53 g of (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin4-yl)propyl]-1-[3-(3,5-difluorophenyl)prop-2-ynyl]piperidine-3-carboxylic acid was obtained in the form of solid with a cream color melting at 106° C.

reactant | methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(3,5-difluorophenyl)prop-2-ynyl]piperidine-3-carboxylate | 0.89 g | OC(CC[C@H]1[C@H](CN(CC1)CC#CC1=CC(=CC(=C1)F)F)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C29H30F2N2O4
reactant | sodium hydroxide | 5N, 1.41 cm3 | [OH-].[Na+]
solvent | dioxane | 9 cm3 | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin4-yl)propyl]-1-[3-(3,5-difluorophenyl)prop-2-ynyl]piperidine-3-carboxylic acid | 0.53 g | OC(CC[C@H]1[C@H](CN(CC1)CC#CC1=CC(=CC(=C1)F)F)C(=O)O)C1=CC=NC2=CC=C(C=C12)OC | C28H28F2N2O4
